US07001897B2
To a solution of 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine (1.16 g, 2.50 mmol) (obtained as described in Reference Example 35(5)) in dimethylformamide (60 ml) was added potassium thioacetate (1.71 mg, 15.0 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (4:1→2:1) as the eluant to afford 3-acetylthio-1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (709 mg, yield 60%) as a pale brown oil.

reactant | 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine | 2.50 mmol, 1.16 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C17H31N3O5S2Si
reactant | potassium thioacetate | 15.0 mmol, 1.71 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 709 mg, yield 60% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N[C@H](CO[Si](C)(C)C(C)(C)C)C)=O | C18H31N3O3S2Si
